US05663297
By coupling rac N-Boc-3-(p-cyanophenyl)alanine (French Published Specification 2593 814) and H-Gly-Asp(OtBu)-Val-OtBu there is obtained [N-Boc-3-(p-cyanophenyl)-DL-alanyl]-Gly-Asp(OtBu)-Val-OtBu, m.p. 140°-145° C. from ethyl acetate/isopropyl ether, yield: 66%.

reactant | rac N-Boc-3-(p-cyanophenyl)alanine | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)C#N)C(=O)O | C15H18N2O4
reactant | H-Gly-Asp(OtBu)-Val-OtBu | NCC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)OC(C)(C)C | C19H35N3O6
product | ethyl acetate isopropyl ether | yield: 66% | C(C)(=O)OCC.C(C)(C)OC(C)C | InChI=1S/C6H14O.C4H8O2/c1-5(2)7-6(3)4;1-3-6-4(2)5/h5-6H,1-4H3;3H2,1-2H3
